US08803420B2
A reaction vessel was charged with 170 g of 1-bromo-4-(2-formylphenyl)naphthalene, 207 g of methoxymethyltriphenylphosphonium chloride, and 2.0 L of tetrahydrofuran (THF) in an argon atmosphere. 73.6 g of t-butoxypotassium was added to the mixture at room temperature with stirring. After stirring the reaction solution at room temperature for 2 hours, 1.5 L of water was added to the reaction solution. The reaction solution was extracted with diethyl ether, and the aqueous phase was removed. The organic phase was washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. After removing magnesium sulfate by filtration, the organic phase was concentrated. The residue was purified by silica gel column chromatography to obtain 180 g of the target 1-bromo-4-[2-(2-methoxyvinyl)phenyl]naphthalene (yield: 99%).

reactant | 1-bromo-4-(2-formylphenyl)naphthalene | 170 g | BrC1=CC=C(C2=CC=CC=C12)C1=C(C=CC=C1)C=O | C17H11BrO
reactant | methoxymethyltriphenylphosphonium chloride | 207 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 2.0 L | O1CCCC1 | C4H8O
reactant | t-butoxypotassium | 73.6 g | C(C)(C)(C)O[K]
solvent | water | 1.5 L | O | H2O
product | 1-bromo-4-[2-(2-methoxyvinyl)phenyl]naphthalene | yield: 99% | BrC1=CC=C(C2=CC=CC=C12)C1=C(C=CC=C1)C=COC | C19H15BrO
